US07507748B2
Preparation of 3-nitro-7,8-dihydro-5H-[1,6]naphthyridine-6-carboxylic acid tert-butyl ester
2M solution of NH3 in MeOH (225 mL, 452.25 mmol) was added to a reaction vessel containing 1-methyl-3,5-dinitro-1H-pyridin-2-one (6 g, 30.15 mmol) and 4-oxo-piperidine-1-carboxylic acid tert-butyl ester (6.6 g, 33.15 mmol). The vessel was then sealed and the reaction was stirred for 24 h at 70° C. After the resulting mixture was cooled to RT, the solvent was removed to give crude product as yellow solid. After recrystallization in MeOH, the desired title compound was obtained as tan solid. MS (ES+): 280.1 (M+H)+. Calc'd for C13H17N3O4—279.12.

reactant | NH3 | N | H3N
reactant | MeOH | 452.25 mmol, 225 mL | CO | CH4O
reactant | 1-methyl-3,5-dinitro-1H-pyridin-2-one | 30.15 mmol, 6 g | CN1C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C6H5N3O5
reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 33.15 mmol, 6.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
product | 3-nitro-7,8-dihydro-5H-[1,6]naphthyridine-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2C=C(C=NC2CC1)[N+](=O)[O-] | C13H17N3O4
